2192-09-19 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Dobbhoff tube placed, position confirmed
   Meds changed to NG
   Captopril started at 12.5mg, uptitrated to 25mg TID
 BLOOD CULTURED - At [**2192-9-18**] 06:26 PM
 URINE CULTURE - At [**2192-9-18**] 06:26 PM
 FEVER - 101.2
F - [**2192-9-18**] 08:00 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-9-18**] 12:16 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2192-9-19**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-19**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 103 (96 - 109) bpm
   BP: 147/71(89) {129/58(74) - 189/96(117)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
             Total In:
                                                                  1,557 mL
                                                                    201 mL
   PO:
             TF:
                                                                     30 mL
                                                                    134 mL
   IVF:
                                                                  1,217 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    780 mL
   Urine:
                                                                  1,120 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    437 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 91%
   ABG: 7.42/38/77/23/0
   PaO2 / FiO2: 128
   Physical Examination
   General: Sedated, arousable transiently, but drifts back off into sleep
   HEENT: NCAT, PERRLA, MMM, OP clear
   Cardiac: RR, no murmurs
   Lungs: clear anteriorly
   Abdomen: NABS, obese, NTTP
   Extremities: BL edema, [**2-15**]+
   Labs / Radiology
   274 K/uL
   14.3 g/dL
   250
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   10 mg/dL
   100 mEq/L
   136 mEq/L
   43.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2192-9-14**]  06:17 AM
                             [**2192-9-15**]  04:00 AM
                             [**2192-9-16**]  05:14 AM
                             [**2192-9-17**]  04:37 AM
                             [**2192-9-18**]  02:03 AM
                             [**2192-9-18**]  01:26 PM
                             [**2192-9-19**]  03:09 AM
                             [**2192-9-19**]  06:00 AM
   WBC
   6.6
   6.1
   7.0
   6.7
   9.6
   Hct
   37.8
   39.5
   41.9
   42.0
   43.3
   Plt
   [**Telephone/Fax (3) 3967**]78
   274
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   TCO2
   28
   25
   Glucose
   245
   174
   234
   [**Telephone/Fax (3) 3968**]
   Other labs: PT / PTT / INR:13.2/21.8/1.1, Amylase / Lipase:/23, Lactic
   Acid:1.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   MRI Pelvis:
   1) Bilateral sacroiliitis, consisting primarily of sclerosis with faint
   edema
   and enhancement about the superior aspect and small osteophytes. No
   erosions
   or effusions. Given these findings, a degenerative process with altered
   biomechanics is favored over an inflammatory etiology, though correlate
   with
   clinical presentation and lab values.
   2) Ill-defined edema involving the left paraspinal musculature,
   incompletely
   imaged on this study, of unclear etiology and clinical significance.
   3) Left iliac chain and obturator internus lymphadenopathy.
   MICRO:
   Blood [**Date range (1) 3974**] NGTD
   Urine [**9-18**]: pending
   Assessment and Plan
   .
   Mr. [**Known lastname 3971**] is a 55M who presents with AMS found to have multiple CVAs
   .
   #. Multiple foci of CVA: Bilateral thalamic infarcts and R pontine
   infarct.  C/w small vessel disease.  Heparin gtt stopped.  Neck MRA
   negative for any clinically significant stenosis.
   -Continue ASA, statin
   -Neuro recs
   .
   #. Fevers: MRI pelvis confirms findings of sacroiliitis and pelvic LAD,
   per report seems more consistent with a degenerative process.
   Continues to spike fevers through CTX with a equivocal UA
   -F/u urine cultures and sensitivities
   -continue CTX for now, will broaden based on C&S
   .
   #. HTN:
   -Titrate enalaprat for goal SBP 140-160
   .
   #. OSA
   -Continue nighttime CPAP
   .
   #. DM: continue NPH/ ISS
   ICU Care
   Nutrition: Dopoff in place for TF
   Impact with Fiber (Full) - [**2192-9-18**] 10:00 PM 25 mL/hour
   Glycemic Control:  Home NPH and ISS
   Lines:
   20 Gauge - [**2192-9-18**] 12:46 PM
   Prophylaxis:
   DVT: NPH
   Stress ulcer: Not needed
   VAP:  Not needed
   Comments:
   Communication:  Comments: Daughter and sister
   [**Name (NI) 66**] status: Full code
   Disposition: call out to neuro

2192-09-20 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2192-9-19**] 08:00 PM
   -Increasing rash to arms and legs from back
   -Patient not called out, family had expressed concern about him
   changing rooms at night, asked to speak to the on-call attending, who
   agreed to let him be called out during the day.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-9-18**] 12:16 PM
   Levofloxacin - [**2192-9-19**] 02:42 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-20**] 12:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2192-9-20**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.8
C (100.1
   HR: 99 (94 - 111) bpm
   BP: 120/71(84) {120/67(81) - 165/94(106)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
                  Total In:
                                                                  1,061 mL
                                                                    372 mL
   PO:
                  TF:
                                                                    801 mL
                                                                    372 mL
   IVF:
                                                                     20 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    345 mL
   Urine:
                                                                  2,045 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -984 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Sedated, arousable transiently
   HEENT: NCAT, opens right eye to voice, unable to open left eye, MMM
   CARDIAC: Regular rhythm, normal rate, no murmurs
   LUNGS: CTAB
   ABDOMEN: NABS, soft, nontender, obese
   EXT: BL [**3-18**]+ pitting edema
   Labs / Radiology
   277 K/uL
   14.7 g/dL
   250
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   10 mg/dL
   100 mEq/L
   136 mEq/L
   44.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2192-9-14**]  06:17 AM
                             [**2192-9-15**]  04:00 AM
                             [**2192-9-16**]  05:14 AM
                             [**2192-9-17**]  04:37 AM
                             [**2192-9-18**]  02:03 AM
                             [**2192-9-18**]  01:26 PM
                             [**2192-9-19**]  03:09 AM
                             [**2192-9-19**]  06:00 AM
                             [**2192-9-20**]  04:03 AM
   WBC
   6.6
   6.1
   7.0
   6.7
   9.6
   10.1
   Hct
   37.8
   39.5
   41.9
   42.0
   43.3
   44.6
   Plt
   [**Telephone/Fax (2) 4010**]
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   TCO2
   28
   25
   Glucose
   245
   174
   234
   [**Telephone/Fax (3) 3968**]
   Other labs: PT / PTT / INR:13.2/21.8/1.1, Amylase / Lipase:/23,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:21.0 %, Mono:8.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Microbiology: Blood 8/1- [**9-19**] with NGTD
   Urine [**9-18**]: pending
   CSF [**9-14**]: No growth
   Assessment and Plan
   Mr. [**Known lastname 3971**] is a 55M who presents with AMS found to have multiple CVAs
   .
   #. Multiple foci of CVA: Bilateral thalamic infarcts and R pontine
   infarct.  Likely reason for his somnolence
   -Continue ASA, statin
   -Neuro recs
   .
   #. Fevers: MRI pelvis confirms findings of sacroiliitis and pelvic LAD,
   per report seems more consistent with a degenerative process.
   Continues to spike fevers through CTX/levofloxacin.  DDX include
   aspiration PNA vs. VAP with recent intubation, UTI, central fevers,
   drug fevers
   -F/u urine cultures and sensitivities, CXR today, sputum culture
   -continue levoflox for now, will broaden based on C&S and CXR, can
   consider unasyn vs. clinda if concern for aspiration PNA vs.
   pseudomonas coverage with cipro or zosyn if concerned for a VAP
   .
   #. HTN:
   -Continue to titrate captopril
   .
   #. OSA
   -Continue nighttime CPAP
   .
   #. DM: continue NPH/ ISS, will titrate NPH
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2192-9-20**] 01:22 AM 60 mL/hour
   Glycemic Control:  NPH/ ISS
   Lines:
   22 Gauge - [**2192-9-19**] 06:08 PM
   Prophylaxis:
   DVT:  Heparin SC
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out

2192-09-21 06:17:00 Physician Resident Progress Note
Chief Complaint: Mental status changes
   Respiratory distress
   24 Hour Events:
   - Patient started on insulin gtt for elevated BSs (300
   - Cxray suggested new infiltrate; started on Vancomycin and Zosyn for
   HAP coverage; Levaquin d/c
   - Captopril dose increased to 37.5mg TID
   - Started on pureed/nectar thick liquids per speech and swallow with
   supervised meals
   - PICC line placed successfully
   - Spiked fever to 102.3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-9-18**] 12:16 PM
   Levofloxacin - [**2192-9-19**] 02:42 PM
   Vancomycin - [**2192-9-20**] 05:14 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-9-21**] 12:39 AM
   Infusions:
   Insulin - Regular - 14 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-21**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-21**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.9
C (100.2
   HR: 107 (97 - 120) bpm
   BP: 143/92(104) {110/65(75) - 182/82,143(119)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
             Total In:
                                                                  2,275 mL
                                                                    754 mL
   PO:
             TF:
                                                                  1,673 mL
                                                                    526 mL
   IVF:
                                                                    422 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    650 mL
   Urine:
                                                                  1,490 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    785 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   14.3 g/dL
   264 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   16 mg/dL
   99 mEq/L
   137 mEq/L
   43.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2192-9-14**]  06:17 AM
                             [**2192-9-15**]  04:00 AM
                             [**2192-9-16**]  05:14 AM
                             [**2192-9-17**]  04:37 AM
                             [**2192-9-18**]  02:03 AM
                             [**2192-9-18**]  01:26 PM
                             [**2192-9-19**]  03:09 AM
                             [**2192-9-19**]  06:00 AM
                             [**2192-9-20**]  04:03 AM
                             [**2192-9-21**]  03:32 AM
   WBC
   6.6
   6.1
   7.0
   6.7
   9.6
   10.1
   8.2
   Hct
   37.8
   39.5
   41.9
   42.0
   43.3
   44.6
   43.7
   Plt
   [**Telephone/Fax (3) 4010**]
   266
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   0.6
   0.8
   TCO2
   28
   25
   Glucose
   245
   174
   234
   [**Telephone/Fax (3) 3968**]
   305
   264
   Other labs: PT / PTT / INR:14.5/25.7/1.3, Amylase / Lipase:/23,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:10.0 %, Mono:7.0 %,
   Eos:0.0 %, Lactic Acid:2.1 mmol/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Imaging:
   Cxray ([**9-20**]): 1. Right-sided PICC line terminates in the mid SVC. 2.
   Patchy bibasilar opacities with low lung volumes, likely representing
   atelectasis with small effusions. Pneumonia cannot be excluded.
   Microbiology:
   [**9-18**] Urine culture-no growth
   [**9-19**] Blood culture-no growth
   Assessment and Plan
   Mr. [**Known lastname 3971**] is a 55M who presents with AMS found to have multiple CVAs
   1) CVA: Bilateral thalamic infarcts and R pontine infarct.  Likely
   reason for his somnolence
   -Continue ASA, statin
   - f/u Neuro recs
   2) Fevers: MRI pelvis confirms findings of sacroiliitis and pelvic LAD,
   per report seems more consistent with a degenerative process.
   Continues to spike fevers through CTX/levofloxacin.  DDX include
   aspiration PNA vs. VAP with recent intubation, UTI, central fevers,
   drug fevers
   -F/u urine cultures and sensitivities, CXR today, sputum culture
   -continue levoflox for now, will broaden based on C&S and CXR, can
   consider unasyn vs. clinda if concern for aspiration PNA vs.
   pseudomonas coverage with cipro or zosyn if concerned for a VAP
   3) HTN:
   -Continue to titrate Captopril
   4) OSA:
   -Continue auto-CPAP
   5)DM: continue NPH/ ISS, will titrate NPH
   ICU Care
   Nutrition:
   Replete (Full) - [**2192-9-20**] 03:42 PM 85 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2192-9-19**] 06:08 PM
   PICC Line - [**2192-9-20**] 10:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-09-24 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2192-9-23**] 08:00 AM
 EKG - At [**2192-9-23**] 09:00 AM
 NON-INVASIVE VENTILATION - START [**2192-9-24**] 12:00 AM
 FEVER - 102.3
F - [**2192-9-23**] 09:00 PM
   - Patient continues to spike fevers to 102
   - Growing GPC in culture from PICC line
   - Surveillance cultures sent
   - Insulin gtt restarted for increased blood sugarrs (400s)
   - Received 250cc bolus for poor urine output
   - Metoprolol 5mg IV x 1 for tachycardia and hypertension
   - [**Last Name (un) 276**] consult: no new recommendations
   - Rate of tube feeds cut down given hyperglycemia
   - Vancomycin levels remained subtherapeutic; spoke with pharmacy, no
   additional doses necessary
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-9-24**] 12:30 AM
   Vancomycin - [**2192-9-24**] 12:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-24**] 12:00 AM
   Metoprolol - [**2192-9-24**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-24**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.9
C (102
   HR: 119 (102 - 125) bpm
   BP: 125/69(83) {79/44(57) - 160/124(130)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
             Total In:
                                                                  4,634 mL
                                                                  1,051 mL
   PO:
                                                                    360 mL
             TF:
                                                                  1,631 mL
                                                                    483 mL
   IVF:
                                                                  1,683 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    410 mL
   Urine:
                                                                  1,600 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,034 mL
                                                                    641 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Sitting in chair, looking around the room, following commands
   Distant heart sounds, no audible murmurs
   Clear lungs anteriorly
   Abdomen obese, NABS, NT/ND
   BL LE edema, 2+ with 1+ pulses
   Able to move fingers on right although very weak. Antigravity
   finger/wrist on left
   Labs / Radiology
   291 K/uL
   12.7 g/dL
   182 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   18 mg/dL
   95 mEq/L
   133 mEq/L
   37.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2192-9-19**]  03:09 AM
                             [**2192-9-19**]  06:00 AM
                             [**2192-9-20**]  04:03 AM
                             [**2192-9-21**]  03:32 AM
                             [**2192-9-21**]  10:07 AM
                             [**2192-9-22**]  04:58 AM
                             [**2192-9-22**]  11:01 AM
                             [**2192-9-22**]  07:32 PM
                             [**2192-9-23**]  02:48 AM
                             [**2192-9-24**]  03:23 AM
   WBC
   9.6
   10.1
   8.2
   9.6
   10.8
   12.7
   Hct
   43.3
   44.6
   43.7
   41.5
   38.8
   37.8
   Plt
   274
   277
   266
   [**Telephone/Fax (3) 4140**]
   Cr
   0.7
   0.6
   0.8
   0.7
   0.8
   0.8
   TropT
   0.02
   0.02
   0.02
   TCO2
   30
   Glucose
   272
   250
   305
   [**Telephone/Fax (3) 4103**]
   182
   Other labs: PT / PTT / INR:14.7/28.5/1.3, CK / CKMB /
   Troponin-T:455/2/0.02, ALT / AST:25/28, Alk Phos / T Bili:56/0.3,
   Amylase / Lipase:/23, Differential-Neuts:63.6 %, Band:0.0 %, Lymph:24.9
   %, Mono:8.7 %, Eos:2.2 %, Lactic Acid:2.1 mmol/L, LDH:236 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Imaging: None
   Microbiology:
   [**9-22**] Blood culture: GPC in clusters (from PICC line) 1 out of 4 bottles
   (aerobic)
   [**9-22**] Urine culture: Pending
   [**9-23**] Blood culture: Pending
   Assessment and Plan
   Mr. [**Known lastname 3971**] is a 55M who presents with AMS found to have multiple CVAs,
   now with persistent fevers and hypoglycemia
    1)Fevers/bacteremia:  Ongoing fevers in spite of broad spectrum
   antibiotics; DDX includes VAP/HAP, prostatitis, sacroiliits, occult
   malignancy, central fever, drug fever
   -- Vanc/zosyn started on [**9-21**], however vancomycin had been
   subtherapeutic.  Today level improved to 16.
   -- Increase Vanc to 1.25gm Q8H x 8 days from therapeutic (last day
   [**2192-10-1**])
   -- Continues to spike through this regimen.  Pan-culture results
   unrevealing.
   -- Continue vanc/zosyn, work on getting vanc therapeutic with pharmacy.
   -- F/u pending cultures
   2. DM: ?infection contributing, improved glucose control with
   strength tube feeds
   --  Continue 100units of NPH [**Hospital1 **]
   -- [**Last Name (un) 276**] following, follow up
   -- ISS, weaning gtt as tolerated.
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   -- Will consult nutrition re: bolus TF while feedings instead of
   continuous as the patient has meals.
   3) Stroke:
   Continue conservative management, aspirin and statin for secondary
   prevention
   4)HTN: Continue to titrate Captopril
   Add low dose beta blocker given ectopy and tachycardia
   5)OSA: Continue auto-CPAP
   ICU Care
   Nutrition:
   Replete (Full) - [**2192-9-23**] 10:33 AM 85 mL/hour
   Glycemic Control:  As above, NPH 100units SC BID and SSI
   Lines:
   22 Gauge - [**2192-9-19**] 06:08 PM
   PICC Line - [**2192-9-20**] 10:02 AM
   Prophylaxis:
   DVT: Prophylaxis
   Stress ulcer:
   VAP:  Bundle care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Remain in MICU

2192-09-24 21:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2192-9-23**] 08:00 AM
 EKG - At [**2192-9-23**] 09:00 AM
 NON-INVASIVE VENTILATION - START [**2192-9-24**] 12:00 AM
 BLOOD CULTURED - At [**2192-9-24**] 06:29 AM
   sent 2sets of blood cx from picc line and venopuncture
 FEVER - 102.3
F - [**2192-9-23**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-9-24**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-9-24**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2192-9-24**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2192-9-24**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-24**] 09:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.8
C (100.1
   HR: 91 (91 - 125) bpm
   BP: 112/59(71) {98/53(61) - 154/124(130)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  4,634 mL
                                                                  3,637 mL
   PO:
                                                                    360 mL
                                                                    850 mL
   TF:
                                                                  1,631 mL
                                                                  1,188 mL
   IVF:
                                                                  1,683 mL
                                                                  1,040 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,240 mL
   Urine:
                                                                  1,600 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,034 mL
                                                                  2,397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Labs / Radiology
   291 K/uL
   12.7 g/dL
   182 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   18 mg/dL
   95 mEq/L
   133 mEq/L
   37.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2192-9-19**]  03:09 AM
                             [**2192-9-19**]  06:00 AM
                             [**2192-9-20**]  04:03 AM
                             [**2192-9-21**]  03:32 AM
                             [**2192-9-21**]  10:07 AM
                             [**2192-9-22**]  04:58 AM
                             [**2192-9-22**]  11:01 AM
                             [**2192-9-22**]  07:32 PM
                             [**2192-9-23**]  02:48 AM
                             [**2192-9-24**]  03:23 AM
   WBC
   9.6
   10.1
   8.2
   9.6
   10.8
   12.7
   Hct
   43.3
   44.6
   43.7
   41.5
   38.8
   37.8
   Plt
   274
   277
   266
   [**Telephone/Fax (3) 4140**]
   Cr
   0.7
   0.6
   0.8
   0.7
   0.8
   0.8
   TropT
   0.02
   0.02
   0.02
   TCO2
   30
   Glucose
   272
   250
   305
   [**Telephone/Fax (3) 4103**]
   182
   Other labs: PT / PTT / INR:14.7/28.5/1.3, CK / CKMB /
   Troponin-T:455/2/0.02, ALT / AST:25/28, Alk Phos / T Bili:56/0.3,
   Amylase / Lipase:/23, Differential-Neuts:63.6 %, Band:0.0 %, Lymph:24.9
   %, Mono:8.7 %, Eos:2.2 %, Lactic Acid:2.1 mmol/L, LDH:236 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2192-9-20**] 10:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2192-9-24**] 09:30 AM
 ULTRASOUND - At [**2192-9-24**] 11:48 AM
   RUE - Negative for DVT
 URINE CULTURE - At [**2192-9-24**] 12:15 PM
 NON-INVASIVE VENTILATION - START [**2192-9-25**] 12:00 AM
 FEVER - 101.6
F - [**2192-9-24**] 12:00 PM
   Ectopy on Telemetry with frequent PVC's
   Given 10mg IV Lasix with some response
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-9-25**] 12:00 AM
   Vancomycin - [**2192-9-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-25**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.1
C (98.8
   HR: 91 (86 - 117) bpm
   BP: 108/59(70) {96/48(61) - 139/87(94)} mmHg
   RR: 19 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  3,950 mL
                                                                    838 mL
   PO:
                                                                    850 mL
             TF:
                                                                  1,331 mL
                                                                    268 mL
   IVF:
                                                                  1,090 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                    260 mL
   Urine:
                                                                  1,820 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,130 mL
                                                                    578 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 97%
   ABG: ////
   Physical Examination
   Arousable, following commands
   Distant heart sounds, no audible murmurs
   Clear lungs anteriorly
   Abdomen obese, NABS, NT/ND
   BL LE edema, 2+ with 1+ pulses
   Able to move fingers on right although very weak. Antigravity
   finger/wrist on left
   Labs / Radiology
   291 K/uL
   12.7 g/dL
   182 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   18 mg/dL
   95 mEq/L
   133 mEq/L
   37.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2192-9-19**]  03:09 AM
                             [**2192-9-19**]  06:00 AM
                             [**2192-9-20**]  04:03 AM
                             [**2192-9-21**]  03:32 AM
                             [**2192-9-21**]  10:07 AM
                             [**2192-9-22**]  04:58 AM
                             [**2192-9-22**]  11:01 AM
                             [**2192-9-22**]  07:32 PM
                             [**2192-9-23**]  02:48 AM
                             [**2192-9-24**]  03:23 AM
   WBC
   9.6
   10.1
   8.2
   9.6
   10.8
   12.7
   Hct
   43.3
   44.6
   43.7
   41.5
   38.8
   37.8
   Plt
   274
   277
   266
   [**Telephone/Fax (3) 4140**]
   Cr
   0.7
   0.6
   0.8
   0.7
   0.8
   0.8
   TropT
   0.02
   0.02
   0.02
   TCO2
   30
   Glucose
   272
   250
   305
   [**Telephone/Fax (3) 4103**]
   182
   Other labs: PT / PTT / INR:14.7/28.5/1.3, CK / CKMB /
   Troponin-T:455/2/0.02, ALT / AST:25/28, Alk Phos / T Bili:56/0.3,
   Amylase / Lipase:/23, Differential-Neuts:63.6 %, Band:0.0 %, Lymph:24.9
   %, Mono:8.7 %, Eos:2.2 %, Lactic Acid:2.1 mmol/L, LDH:236 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3971**] is a 55M who presents with AMS found to have multiple CVAs,
   now with persistent fevers and hypoglycemia
    1)Fevers/bacteremia:  Curve defervessing after reaching therapeutic
   levels of vancomycin.  DDX includes VAP/HAP, prostatitis, sacroiliits,
   occult malignancy, central fever, drug fever, with the most likely
   cause being a hospital acquired pneumonia.
   -- Vanc/zosyn started on [**9-21**], however vancomycin had been
   subtherapeutic. Therapeutic now
   -- Continue Vanc to 1.25gm Q8H x 8 days from therapeutic (last day
   [**2192-10-1**]).
   -- F/u pending cultures
   -- Foley catheter replaced [**9-22**]
   2. DM: Significanly improved with current regimen and
 volume of tube
   feeds. Nutrition aggress with plan as patient is starting to take some
   PO.
   --  Continue 100units of NPH [**Hospital1 **]
   -- Nutrition recommends against bolus tube feeds given difficulty in
   controlling blood glucose
   -- [**Last Name (un) 276**] following, no changes for now
   -- ISS has been off for 24hrs
   3) Stroke: Continue conservative management, aspirin and statin for
   secondary prevention
   -- Patient will require intensive rehabilitation
   4)HTN: Continue to titrate Captopril
   Add low dose beta blocker given ectopy and tachycardia
   5)OSA: Continue CPAP during sleep
   ICU Care
   Nutrition:
   Replete (Full) - [**2192-9-24**] 07:01 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2192-9-20**] 10:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-09-26 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt became hypotensive (78/43) at the time of call out to the medical
   floor. Remained in unit overnight.
 Insulin sliding scale uptitrated by 5 units at all meals; NPH
   transitioned to Lantus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-9-25**] 08:42 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-9-26**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-26**] 12:00 AM
   Furosemide (Lasix) - [**2192-9-26**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-26**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 96 (90 - 106) bpm
   BP: 102/58(69) {78/43(55) - 142/84(93)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  3,683 mL
                                                                    511 mL
   PO:
                                                                    520 mL
             TF:
                                                                  1,043 mL
                                                                    305 mL
   IVF:
                                                                  1,490 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                    720 mL
   Urine:
                                                                  2,710 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Arousable, following commands
   Distant heart sounds, no audible murmurs
   Clear lungs anteriorly
   Abdomen obese, NABS, NT/ND
   BL LE edema, 2+ with 1+ pulses
   Able to move fingers on right although very weak. Antigravity
   finger/wrist on left
   Labs / Radiology
   422 K/uL
   11.5 g/dL
   143 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   22 mg/dL
   96 mEq/L
   135 mEq/L
   34.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2192-9-21**]  03:32 AM
                             [**2192-9-21**]  10:07 AM
                             [**2192-9-22**]  04:58 AM
                             [**2192-9-22**]  11:01 AM
                             [**2192-9-22**]  07:32 PM
                             [**2192-9-23**]  02:48 AM
                             [**2192-9-24**]  03:23 AM
                             [**2192-9-25**]  05:03 AM
                             [**2192-9-25**]  02:57 PM
                             [**2192-9-26**]  03:13 AM
   WBC
   8.2
   9.6
   10.8
   12.7
   10.6
   10.3
   Hct
   43.7
   41.5
   38.8
   37.8
   34.7
   34.9
   Plt
   266
   236
   247
   291
   303
   422
   Cr
   0.8
   0.7
   0.8
   0.8
   0.7
   0.9
   0.7
   TropT
   0.02
   0.02
   0.02
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 4246**]82
   174
   269
   143
   Other labs: PT / PTT / INR:14.7/28.5/1.3, CK / CKMB /
   Troponin-T:455/2/0.02, ALT / AST:25/28, Alk Phos / T Bili:56/0.3,
   Amylase / Lipase:/23, Differential-Neuts:63.6 %, Band:0.0 %, Lymph:24.9
   %, Mono:8.7 %, Eos:2.2 %, Lactic Acid:2.1 mmol/L, LDH:236 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3971**] is a 55M who presents with AMS found to have multiple CVAs,
   now admitted with persistent fevers and hypoglycemia
    1) Fevers/bacteremia:  Curve defervessing after reaching therapeutic
   levels of vancomycin. Postive culture from PICC line with coag negative
   staph. DDX includes VAP/HAP, prostatitis, sacroiliits, occult
   malignancy, central fever, drug fever, with the most likely cause being
   a hospital acquired pneumonia.
   -- Vanc/zosyn started on [**9-21**], however vancomycin had been
   subtherapeutic. Therapeutic as of [**9-25**], however several doses held.
   Transitioned today to 1g q12. Will check vano trough again after third
   dose at this level.
   -- F/u pending cultures, including PICC line, if positive will need to
   D/C PICC
   -- Foley catheter replaced [**9-22**]
   2) DM: Glycemic control has significantly improved. Nutrition aggress
   with plan as patient is starting to take some PO.
   --  NPH transitioned to 100 units Lantus [**Hospital1 **]
   --  Have started metformin 1000 mg [**Hospital1 **]
   -- Nutrition recommends against bolus tube feeds given difficulty in
   controlling blood glucose
   3) Stroke: Continue conservative management, aspirin and statin for
   secondary prevention
   -- Patient will require intensive rehabilitation
   4) HTN: Yesterday transitioned captopril to lisinopril. Also uptitrated
   pt's beta blocker given ectopy and tachycardia. However, given
   transient hypotension yesterday afternoon, stopped lisinopril and
   reduced and metoprolol to 12. 5 mg [**Hospital1 **].
   5) HypoTN: Pt dropped SBPs to high 70s yesterday in setting of
   receiving Lasix, lisinopril and BB. Required 500cc saline bolus to
   improve. Have reduced doses of antihypertensives as believe pt still
   requires significant diuresis.
   6) OSA: Continue CPAP during sleep
   ICU Care
   Nutrition:
   Replete (Full) - [**2192-9-25**] 04:33 PM 40.[**Telephone/Fax (5) 4247**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-9-20**] 10:02 AM
   Prophylaxis:
   DVT: Subq heparin
   Stress ulcer:  taking POs
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until more consistent BP control

2192-09-27 07:51:00 Physician Resident Progress Note
Chief Complaint: 55M presented with AMS, found to have multiple CVAs,
   course c/b difficult to control BS and fevers.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2192-9-26**] 09:04 AM
 NON-INVASIVE VENTILATION - START [**2192-9-26**] 08:10 PM
   Insulin regimen increased [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs
   Pt had transient episode hypotension to 80s several hours after
   captopril dose in setting of being upright. Captopril stopped
   Lasix stopped due to relative tachycardia and concern for orthostasis
   and possibility that pt may be intravascularly dry.
   Called out this morning after uneventful night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-9-27**] 12:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-9-27**] 12:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-27**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain, intubated
   Flowsheet Data as of  [**2192-9-27**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 98 (95 - 108) bpm
   BP: 138/40(66) {91/40(62) - 147/88(99)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,296 mL
                                                                    810 mL
   PO:
             TF:
                                                                    965 mL
                                                                    312 mL
   IVF:
                                                                    940 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    600 mL
   Urine:
                                                                  2,040 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Intubated, sedated
   Distant heart sounds, no audible murmurs
   Clear lungs anteriorly
   Abdomen obese, NABS, NT/ND
   BL LE edema, 2+ with 1+ pulses
   Able to move fingers on right although very weak. Antigravity
   finger/wrist on left
   Labs / Radiology
   531 K/uL
   11.3 g/dL
   91 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   22 mg/dL
   97 mEq/L
   135 mEq/L
   35.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2192-9-22**]  04:58 AM
                             [**2192-9-22**]  11:01 AM
                             [**2192-9-22**]  07:32 PM
                             [**2192-9-23**]  02:48 AM
                             [**2192-9-24**]  03:23 AM
                             [**2192-9-25**]  05:03 AM
                             [**2192-9-25**]  02:57 PM
                             [**2192-9-26**]  03:13 AM
                             [**2192-9-26**]  04:45 PM
                             [**2192-9-27**]  05:46 AM
   WBC
   9.6
   10.8
   12.7
   10.6
   10.3
   9.8
   Hct
   41.5
   38.8
   37.8
   34.7
   34.9
   35.1
   Plt
   [**Telephone/Fax (2) 4288**]
   Cr
   0.7
   0.8
   0.8
   0.7
   0.9
   0.7
   0.7
   0.7
   TropT
   0.02
   0.02
   0.02
   Glucose
   138
   184
   182
   174
   269
   143
   91
   Other labs: PT / PTT / INR:14.7/28.5/1.3, CK / CKMB /
   Troponin-T:455/2/0.02, ALT / AST:25/28, Alk Phos / T Bili:56/0.3,
   Amylase / Lipase:/23, Differential-Neuts:63.6 %, Band:0.0 %, Lymph:24.9
   %, Mono:8.7 %, Eos:2.2 %, Lactic Acid:2.1 mmol/L, LDH:236 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
   Mr. [**Known lastname 3971**] is a 55M who presents with AMS found to have multiple CVAs,
   now admitted with persistent fevers and hypoglycemia
    1) Fevers/bacteremia:  Curve defervessing after reaching therapeutic
   levels of vancomycin. Postive culture from PICC line with coag negative
   staph. DDX includes VAP/HAP, prostatitis, sacroiliits, occult
   malignancy, central fever, drug fever, with the most likely cause being
   a hospital acquired pneumonia.
   -- Vanc/zosyn started on [**9-21**], however vancomycin had been
   subtherapeutic. Therapeutic as of [**9-25**], however several doses held.
   Transitioned today to 1g q12. Will check vano trough again after third
   dose at this level. Today is considered [**6-21**] day course for line
   infection.
   -- Zosyn for presumed VAP, currently day [**8-21**] day course.
   -- F/u pending cultures, no new data today. Blood cx positive for CNS
   in one bottle, will treat as above with 8 day course for line
   infection.
   -- Foley catheter replaced [**9-22**], again with + UA from [**9-25**] with
   recurrent candiduria. In setting of low grade fevers while on ATC
   Tylenol with positive UA will consider symptomatic bactiuria.  Change
   foley again today and initiate 14 course of diflucan, loading dose
   today.
   2) DM: Glycemic control has significantly improved. Nutrition aggress
   with plan as patient is starting to take some PO.
   --  NPH transitioned to 100 units Lantus [**Hospital1 **]
   --  Have started metformin 1000 mg [**Hospital1 **]
   -- Nutrition recommends against bolus tube feeds given difficulty in
   controlling blood glucose
   -- Increased HISS per Josin recs
   -- Follow up [**Last Name (un) 276**] recs today
   3) Stroke: Continue conservative management, aspirin and statin for
   secondary prevention
   -- Patient will require intensive rehabilitation
   4) Blood pressure, had been increasing anti-hypertensive regimen with
   captopril and BB, had episode of hypotension in setting of getting
   lasix and BP meds on [**9-25**].  BP meds decreased but still had single
   episode of hypotension yesterday in setting of getting captopril and
   being upright, as is slightly more tachycardic that before (although HR
   has been in 90-100s throughout hospital course), have d/c
d captopril
   and lasix due to concerns re orthostasis, possibility that patient may
   be intravascularly dry despite being fluid overloaded on exam and 10+
   liters positive this stay.
   -Continue BB
   -Hold lasix and ACEI
   -OOB as much as possible to allow pt to mobilize fluid and begin to
   auto-diurese
   5)OSA: Continue CPAP during sleep
   ICU Care
   Nutrition:
   Replete (Full) - [**2192-9-25**] 04:33 PM 40.[**Telephone/Fax (5) 4247**] mL/hour
   SPL for S&S today (RN reports coughing with taking liquids)
   F/u with nutrition re when to start calorie counts
   Change doboff today, too high on CXR
   Glycemic Control:  HISS + lantus [**Hospital1 **] + metformin
   Lines:
   PICC Line - [**2192-9-20**] 10:02 AM
   Prophylaxis:
   DVT: Subq heparin
   Stress ulcer:  taking POs
   VAP:
   Comments:
   Communication:  Comments: With daughter and sister
   [**Name (NI) 66**] status: Full code
   Disposition: Call out today